US07312215B2
4-Chloro-3,6-dimethoxy-pyridazine:
A solution of n-butyllithium (1.6 M in hexanes, 2.45 mL, 3.92 mmol) was added to a cold solution of THF (20 mL) at −78° C. Tetramethylpiperidine (0.67 mL, 3.92 mol) was introduced and the solution was warmed to 0° C. and kept at this temperature for 20 min; it was then cooled to −78° C. A solution of 3,6-dimethoxy-pyridazine (500 mg, 3.57 mmol) in THF (5 mL) was added slowly and the mixture was stirred at −78° C. for 45 min. This reaction mixture was transferred to a solution of achloroethane (1.268 g, 5.36 mmol) in THF (10 mL) at −78° C. and stirring was continued at −78° C. for 15 min. Saturated aqueous NH4Cl was added and the mixture was warmed to room temperature. The mixture was extracted with EtOAc, dried over MgSO4, and concentrated in vacuo to give the crude product, which was purified by flash chromatography, eluting with 10-20% EtOAc in hexanes to afford, after evaporation, the title compound as a white solid (372 mg, 60%): 1H NMR (400 MHz, DMSO) δ 7.04 (s, 1H), 4.11 (s, 3H), 4.04 (s, 3H); LCMS (+ESI, M+H+) m/z 175.

reactant | n-butyllithium | 3.92 mmol, 1.6 M, 2.45 mL | C(CCC)[Li]
reactant | Tetramethylpiperidine | 3.92 mol, 0.67 mL | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | 3,6-dimethoxy-pyridazine | 3.57 mmol, 500 mg | COC=1N=NC(=CC1)OC | C6H8N2O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Chloro-3,6-dimethoxy-pyridazine | ClC1=C(N=NC(=C1)OC)OC | C6H7ClN2O2
